US05393875
In an analogous manner to that described in Example 1, paragraphs (d) and g), by adding Boc-L-cysteine to benzyl 2-benzylacrylate and subsequently oxidizing with potassium monopersulphate triple salt there was obtained 3-[[(RS)-2-[(benzyloxy)carbonyl]-3-phenylpropyl]sulfonyl]-N-(tert-butoxycarbonyl)-L-alanine as a colourless oil, MS: 506 (M+H)+.

reactant | Boc-L-cysteine | C(=O)(OC(C)(C)C)N[C@@H](CS)C(=O)O | C8H15NO4S
reactant | benzyl 2-benzylacrylate | C(C1=CC=CC=C1)C(C(=O)OCC1=CC=CC=C1)=C | C17H16O2
reactant | potassium monopersulphate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
product | 3-[[(RS)-2-[(benzyloxy)carbonyl]-3-phenylpropyl]sulfonyl]-N-(tert-butoxycarbonyl)-L-alanine | C(C1=CC=CC=C1)OC(=O)C(CS(=O)(=O)C[C@H](NC(=O)OC(C)(C)C)C(=O)O)CC1=CC=CC=C1 | C25H31NO8S
